US08389547B2
A solution of methyl {(2S,3R)-2-[4-(trifluoromethyl)phenyl]piperidin-3-yl}acetate (2.1 g, 7.0 mmol), 4,4,4-trifluorobutanal (1.76 g, 13.9 mmol) and gold(III) bromide (0.3 g, 0.7 mmol) in water (50 mL) was degassed with nitrogen for 1.5 hours. To this solution was added 3,3-dimethylbut-1-yne (4.3 mL, 34.8 mmol) and the reaction was sealed and heated to 70° C. for 16 hours. The reaction was partitioned between water and ethyl acetate. The organics were dried over sodium sulfate, filtered and evaporated in vacuo. Purification by flash column chromatography (3% ethyl acetate/hexanes) gave methyl {(2S,3R)-1-[(1S)-4,4-dimethyl-1-(3,3,3-trifluoropropyl)pent-2-yn-1-yl]-2-[4-(trifluoromethyl)phenyl]piperidin-3-yl}acetate as a clear oil. LC/MS (EIMS, M+H)=492.1.

reactant | methyl {(2S,3R)-2-[4-(trifluoromethyl)phenyl]piperidin-3-yl}acetate | 7.0 mmol, 2.1 g | FC(C1=CC=C(C=C1)[C@H]1NCCC[C@@H]1CC(=O)OC)(F)F | C15H18F3NO2
reactant | 4,4,4-trifluorobutanal | 13.9 mmol, 1.76 g | FC(CCC=O)(F)F | C4H5F3O
reactant | 3,3-dimethylbut-1-yne | 34.8 mmol, 4.3 mL | CC(C#C)(C)C | C6H10
solvent | water | 50 mL | O | H2O
catalyst | gold(III) bromide | 0.7 mmol, 0.3 g | [Au](Br)(Br)Br
product | methyl {(2S,3R)-1-[(1S)-4,4-dimethyl-1-(3,3,3-trifluoropropyl)pent-2-yn-1-yl]-2-[4-(trifluoromethyl)phenyl]piperidin-3-yl}acetate | CC(C#C[C@H](CCC(F)(F)F)N1[C@@H]([C@H](CCC1)CC(=O)OC)C1=CC=C(C=C1)C(F)(F)F)(C)C | C25H31F6NO2
